US07858640B2
2-(4-chloro-2-fluorobenzyl)-3-oxothiobutyric acid S-tert-butyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-4-chloro-2-fluorobenzene and 3-oxothiobutyric acid S-tert-butyl ester.

reactant | 1-bromomethyl-4-chloro-2-fluorobenzene | BrCC1=C(C=C(C=C1)Cl)F | C7H5BrClF
reactant | 3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(CC(C)=O)=O | C8H14O2S
product | 2-(4-chloro-2-fluorobenzyl)-3-oxothiobutyric acid S-tert-butyl Ester | C(C)(C)(C)SC(C(C(C)=O)CC1=C(C=C(C=C1)Cl)F)=O | C15H18ClFO2S
